US09446041B2
a) 6-(4-((Dimethylamino)methyl)piperidin-1-yl)-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid
To a 10-mL microwave tube were added 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid (100 mg, 0.338 mmol), 1,4-dioxane (2 mL), N,N-dimethyl-1-(4-piperidinyl)methanamine (52.8 mg, 0.371 mmol) and sodium tert-butoxide (71.4 mg, 0.743 mmol), and the mixture was degassed for 5 min. Choro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]Pd(11)Me-t-butylether adduct (13.96 mg, 0.017 mmol) was added and the tube was sealed. The mixture was stirred at 98° C. with stirring for 20 h. The mixture was then concentrated and the residue was purified using reverse-phase HPLC (Gemini 5u C18(2) 100A, AXIA; 30×100 mm 5 micron; (30 mL/min, 7% ACN/H2O, 0.1% formic acid to 37% ACN/H2O, 0.1% formic acid) to give the title compound (65 mg, 54%) as pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.19-1.34 (m, 2H), 1.39 (d, J=6.57 Hz, 6H), 1.58-1.71 (m, 1H), 1.82 (d, J=11.87 Hz, 2H), 2.23-2.31 (m, 10H), 2.66 (td, J=11.94, 1.89 Hz, 2H), 3.57-3.71 (m, 2H), 4.70 (quin, J=6.63 Hz, 1H), 7.09 (d, J=2.02 Hz, 1H), 7.15 (dd, J=9.60, 1.52 Hz, 2H). MS: (M+H)+=358.2.

reactant | 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid | 0.338 mmol, 100 mg | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)O | C13H14BrNO2
reactant | N,N-dimethyl-1-(4-piperidinyl)methanamine | 0.371 mmol, 52.8 mg | CN(CC1CCNCC1)C | C8H18N2
reactant | sodium tert-butoxide | 0.743 mmol, 71.4 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-(4-((Dimethylamino)methyl)piperidin-1-yl)-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid | 65 mg, 54% | CN(C)CC1CCN(CC1)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)O | C21H31N3O2
